2135-08-22 09:14:00 Physician Attending Progress Note
Chief Complaint: confusion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75F with dm, afib with a/c, pulm htn with home O2, presented to ED with
   change in mental status. Per daughter pt was becoming unresponsive. EMS
   found her hypoglycemic. Hypotension in the ED. 5L NS with some
   improvement in BP. INR was elevated. Work-up of sepsis was negative.
   24 Hour Events:
 EKG - At [**2135-8-22**] 02:36 AM
 ARTERIAL LINE - START [**2135-8-22**] 04:11 AM
   Stable overnight -- BP normal.
                             History obtained from [**Hospital 85**] Medical records
   Allergies:
   Streptomycin
   Swelling;
   Versed (Injection) (Midazolam Hcl)
   cardiac arrest;
   Fentanyl
   cardiac arrest;
   Last dose of Antibiotics:
   Piperacillin - [**2135-8-22**] 05:54 AM
   Infusions:
   Other ICU medications:
   Other medications:
   vanco 1q48, zosyn, protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) Dry mouth, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: No(t) Dysuria
   Endocrine: Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-8-22**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 60 (58 - 60) bpm
   BP: 121/56(78) {103/52(70) - 125/68(88)} mmHg
   RR: 17 (13 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           9,240 mL
   PO:
           TF:
   IVF:
   2,618 mL
   Blood products:
   622 mL
   Total out:
                                                                      0 mL
                                                                    920 mL
   Urine:
   520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  8,320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.27/52/111/22/-3
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   100 K/uL
   114 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.9 mEq/L
   29 mg/dL
   111 mEq/L
   140 mEq/L
   25.0 %
   3.9 K/uL
        [image002.jpg]
                             [**2135-8-22**]  03:38 AM
                             [**2135-8-22**]  04:41 AM
   WBC
   3.9
   Hct
   25.0
   Plt
   100
   Cr
   1.3
   TropT
   <0.01
   TCO2
   25
   Glucose
   114
   Other labs: PT / PTT / INR:27.3/33.8/2.7, CK / CKMB /
   Troponin-T:71//<0.01, ALT / AST:20/29, Alk Phos / T Bili:36/0.3,
   Amylase / Lipase:/52, Lactic Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:161
   IU/L, Ca++:6.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: cxr:
   cttorso: no infiltrate
   Microbiology: bcx pending
   ECG: afib
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPOTHERMIA
 HYPOGLYCEMIA
   75F with dm, afib with a/c, ?pulm htn with home O2, presented to ED
   with change in mental status. Work-up of sepsis was negative, and
   patient is normotensive since admission (s/p 8 L IV fluid but had good
   u/o at all times in ED), on abx. Most likely explanation is iatrogenic
   hypoglycemia, followed by hypothermia. Hypotension seems to be related
   to lower BP in one arm compared to another. Patient reports feeling
   well, at baseline. The etiology of hypoglycemia is unclear. Infection
   is certainly a concern, but none discovered thus far. She has had prior
   episodes of hypoglycemia in the past, though never this severe. Mild
   hypothyroidism likely playing small if any role. Patient education
   seems to be crucial in this case.
   Hypoglycemia: a/w hypotension and hypothermia
   -follow-up cultures
   -restart lower doses of insulin
   -fu thyroid function
   -patient education
   -LEFT are to be used for bp measurements
   OSA
   -restart CPAP tonight
   AFIB/HTN:
   -restart home meds later today
   ICU Care
   Nutrition: diabetic
   Glycemic Control:
   Lines:
   18 Gauge - [**2135-8-22**] 02:46 AM
   20 Gauge - [**2135-8-22**] 02:46 AM
   22 Gauge - [**2135-8-22**] 02:47 AM
   Arterial Line - [**2135-8-22**] 04:11 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Transfer to floor this PM if remains stable
   Total time spent: 45 minutes
   Patient is critically ill

2135-08-23 11:39:00 Physician Attending Progress Note
Chief Complaint: hypoglycemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71F with DM on insulin, hypoglycemia in the setting of dehydration and
   no access to sugar, to MICU because of hypotension and hypothermia, all
   resolved, developed RVR from known afib, now restarted on home meds,
   improving, awaiting floor bed:
   24 Hour Events:
 EKG - At [**2135-8-22**] 04:00 PM
 ARTERIAL LINE - STOP [**2135-8-23**] 04:00 AM
 CALLED OUT
   -RVR last night, restarted on home meds
   History obtained from Patient
   Allergies:
   Streptomycin
   Swelling;
   Versed (Injection) (Midazolam Hcl)
   cardiac arrest;
   Fentanyl
   cardiac arrest;
   Last dose of Antibiotics:
   Piperacillin - [**2135-8-22**] 05:54 AM
   Piperacillin/Tazobactam (Zosyn) - [**2135-8-23**] 06:01 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2135-8-22**] 08:45 PM
   Pantoprazole (Protonix) - [**2135-8-23**] 08:19 AM
   Other medications:
   vanco, protonix, riss, zosyn, coumadin, lasix, lopressor 37.5
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Foley
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Numbness / tingling
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-8-23**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 94 (84 - 127) bpm
   BP: 115/55(68) {105/50(61) - 132/72(87)} mmHg
   RR: 21 (16 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                 10,636 mL
                                                                    562 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  3,774 mL
                                                                    322 mL
   Blood products:
                                                                    622 mL
   Total out:
                                                                  2,720 mL
                                                                  2,330 mL
   Urine:
                                                                  2,320 mL
                                                                  2,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,916 mL
                                                                 -1,768 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   90 K/uL
   110 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.3 mEq/L
   17 mg/dL
   104 mEq/L
   136 mEq/L
   27.3 %
   5.4 K/uL
        [image002.jpg]
                             [**2135-8-22**]  03:38 AM
                             [**2135-8-22**]  04:41 AM
                             [**2135-8-22**]  11:19 AM
                             [**2135-8-23**]  03:34 AM
   WBC
   3.9
   4.8
   5.4
   Hct
   25.0
   25.8
   27.3
   Plt
   100
   110
   90
   Cr
   1.3
   1.3
   TropT
   <0.01
   <0.01
   TCO2
   25
   Glucose
   114
   110
   Other labs: PT / PTT / INR:29.9/31.9/3.0, CK / CKMB /
   Troponin-T:65//<0.01, ALT / AST:20/29, Alk Phos / T Bili:36/0.3,
   Amylase / Lipase:/52, Lactic Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:161
   IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Microbiology: cultures neg
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPOTHERMIA
 HYPOGLYCEMIA
   71F with DM on insulin, hypoglycemia in the setting of dehydration and
   no access to sugar, to MICU because of hypotension and hypothermia, all
   resolved, developed RVR from known afib, now restarted on home meds,
   improving, awaiting floor bed. Patient is stable. Abx can be stopped,
   and she should continue to be transitioned to home medications. She
   needs PT, and she needs better education regarding having glucose
   tablets with her at all time
 I spoke to her about this.
   Afib with RVR is responding to reinitiation of home nodal agents. She
   is ready for transfer to the floor.
   ICU Care
   Nutrition: diabetic
   Glycemic Control:  great on RISS
   Lines:
   18 Gauge - [**2135-8-22**] 02:46 AM
   20 Gauge - [**2135-8-22**] 02:46 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2135-08-24 13:11:00 Physician Attending Progress Note
Chief Complaint: hypoglycemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71F with DM, OSA, pulm HTN, atrial fibrillation, presented with
   hypoglycemia due to poor access to sugar, with hospital course
   complicated by afib with RVR in the setting of holding home
   medications, now with good rate control:
   24 Hour Events:
 CALLED OUT
   -better rate control
   -desaturation this morning while breathing through her mouth and
   decline hospital-CPAP; resolved with waking up
                                History obtained from Patient
   Allergies:
   Streptomycin
   Swelling;
   Versed (Injection) (Midazolam Hcl)
   cardiac arrest;
   Fentanyl
   cardiac arrest;
   Last dose of Antibiotics:
   Piperacillin - [**2135-8-22**] 05:54 AM
   Piperacillin/Tazobactam (Zosyn) - [**2135-8-23**] 06:01 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2135-8-23**] 01:26 PM
   Diltiazem - [**2135-8-23**] 04:39 PM
   Other medications:
   protonix, lasix, insulin, dilt, metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-8-24**] 01:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.2
C (97.1
   HR: 90 (71 - 131) bpm
   BP: 117/50(62) {101/33(49) - 137/89(95)} mmHg
   RR: 20 (17 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,170 mL
                                                                    144 mL
   PO:
                                                                    720 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    450 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  3,980 mL
                                                                    900 mL
   Urine:
                                                                  3,980 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,810 mL
                                                                   -756 mL
   Respiratory support
   SpO2: 99%
   ABG: ///35/
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   97 K/uL
   141 mg/dL
   1.4 mg/dL
   35 mEq/L
   4.3 mEq/L
   20 mg/dL
   101 mEq/L
   140 mEq/L
   27.4 %
   6.9 K/uL
        [image002.jpg]
                             [**2135-8-22**]  03:38 AM
                             [**2135-8-22**]  04:41 AM
                             [**2135-8-22**]  11:19 AM
                             [**2135-8-23**]  03:34 AM
                             [**2135-8-24**]  04:29 AM
   WBC
   3.9
   4.8
   5.4
   6.9
   Hct
   25.0
   25.8
   27.3
   27.4
   Plt
   100
   110
   90
   97
   Cr
   1.3
   1.3
   1.4
   TropT
   <0.01
   <0.01
   TCO2
   25
   Glucose
   114
   110
   141
   Other labs: PT / PTT / INR:29.9/31.9/3.0, CK / CKMB /
   Troponin-T:65//<0.01, ALT / AST:20/29, Alk Phos / T Bili:36/0.3,
   Amylase / Lipase:/52, Lactic Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:161
   IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Imaging: cxr: RLL infiltrate
   Microbiology: culutres negative
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPOTHERMIA
 HYPOGLYCEMIA
   71F with DM, OSA, pulm HTN, atrial fibrillation, presented with
   hypoglycemia due to poor access to sugar, with hospital course
   complicated by afib with RVR in the setting of holding home
   medications, now with good rate control. Patient with transient
   desaturation this morning in the setting of sleeping without her usual
   CPAP. CXR reveals RLL infiltrate, and patient is certainly at risk for
   atelectasis given large abdomen being in bed for the last few days.
   Although she may be able to go home very soon, transfer to the floor is
   a reasonable intermediate step given the new oxygen requirement. It is
   worth noting that aside from the infiltreat, patient is without cough,
   leukocytosis, or fevers.
   -continue restarting home medications
   -start levofloxacin 750 mg po daily, realizing that this is not
   adequate treatment for treatment of truly hospital-acquired PNA
   -cont warfarin, though will need to watch INR closely given abx
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2135-8-22**] 02:46 AM
   20 Gauge - [**2135-8-22**] 02:46 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes